US04364951
3(a) (1S,5R,6R,7R)-6-[(E)-(3R)-3-Benzoyloxy-4,4-dimethyl-1-octenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one
In analogy to Example 1(a), 1.6 g of (1S,5R,6R,7R)-6-[(E)-(3R)-3-hydroxy-4,4-dimethyl-1-octenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one, 8 ml of pyridine, and 1 ml of benzoyl chloride yield 2 g of the dibenzoate as a colorless oil.

reactant | (1S,5R,6R,7R)-6-[(E)-(3R)-3-hydroxy-4,4-dimethyl-1-octenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one | 1.6 g | O[C@H](/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)C(CCCC)(C)C | C24H32O5
reactant | benzoyl chloride | 1 ml, yield 2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | (1S,5R,6R,7R)-6-[(E)-(3R)-3-Benzoyloxy-4,4-dimethyl-1-octenyl]-7-benzoyloxy-2-oxabicyclo[3.3.0]octan-3-one | C(C1=CC=CC=C1)(=O)O[C@H](/C=C/[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)C(CCCC)(C)C | C31H36O6
